US09079919B2
(2RS,4R)-6-(3,5-Dichlorophenyl)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine
The cross coupling reaction of (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine (intermediate C3.4) with 3,5-dichlorophenylboronic acid yielded the title compound (8% yield) as a white solid. MS (ISP): m/z=489.4 [M+H]+.

reactant | (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C19H17BrF2N2O2
reactant | 3,5-dichlorophenylboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | (2RS,4R)-6-(3,5-Dichlorophenyl)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | 8% yield | ClC=1C=C(C=C(C1)Cl)C=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C25H20Cl2F2N2O2
